US08980899B2
4-nitrophenyl boronic acid (100 mg, 0.330 mmol; Sigma-Aldrich) was coupled to 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (140 mg, 0.8248 mmol; Apsel et al., 2008) via the Suzuki reaction in 6 mL 1,2 methoxy ethane, 1 mL of saturated sodium carbonate, 1.65 mL EtOH, and 200 mg of polymer-bound tetrakis palladium. The reaction was stirred under argon for 12 hours at room temperature, filtered through Whatman paper to remove palladium, mixed with brine, extracted in chloroform and the product was subsequently purified on silica in EtOAc and concentrated in vacuo. The purified solid 1-isopropyl-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 299.1, calculated 299.1; 100 mg, 0.336 mmol) was combined with zinc dust, 5 mL THF, and 0.4 mL HOAc for 12 hours at room temperature under argon. Then the reaction mixture was filtered through Celite®, extracted with EtOAc and concentrated in vacuo to yield 3-(4-aminophenyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 269.1, calculated 269.1). To this reduced product, molar equivalents of 3-(trifluoromethyl)phenyl isocyanate (Sigma-Aldrich) were added dropwise in ice-cold CH2Cl2. The reaction proceeded until completion as judged by TLC, was concentrated in vacuo, resuspended in 50:50 H2O—CH3CN, and purified on a C18 column in CH3CN/H2O/0.1% TFA (1-100% gradient) to yield AD57 1-(4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)-3-(3-(trifluoromethyl)phenyl)urea (ESI-MS m/z [M+H]+ found 455.2, calculated 455.2; 1H NMR (400 MHz, DMSO): δ 9.48 (s, 1H), 9.42 (s, 1H), 8.39 (s, 1H), 8.07 (s, 1H), 7.70 (d, J=8 Hz, 2H), 7.60 (d, J=8 Hz, 2H), 7.60-7.64 (m, 1H), 7.53 (t, J=8 Hz, 1H), 7.33 (d, J=8 Hz, 1H), 5.10 (septet, J=6.8 Hz, 1H), 1.51 (d, J=6 Hz, 6H), 3.10 (q, J=4 Hz, 1.5H, trace triethylamine), 1.18 (t, J=8 Hz, 2H, trace triethylamine). 13C NMR (400 MHz, DMSO): δ 9.08 (trace triethylamine), 22.23, 46.20 (trace triethylamine), 49.17, 97.40, 115.45, 116.0 (d), 119.20, 122.34, 124.70 (q), 126.19, 129.35, 130.00 (q), 130.40, 140.85, 141.09, 145.20, 151.70, 152.35, 153.00, 155.72, 159.41 (q)).

reactant | 4-nitrophenyl boronic acid | 0.330 mmol, 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.8248 mmol, 140 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-isopropyl-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.336 mmol, 100 mg | C(C)(C)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)[N+](=O)[O-] | C14H14N6O2
catalyst | tetrakis palladium | 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
catalyst | zinc | [Zn] | Zn
solvent | HOAc | 0.4 mL | CC(=O)O | C2H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 1.65 mL | CCO | C2H6O
product | 3-(4-aminophenyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C(C)C | C14H16N6
